US04806538
A mixture of Nα -[N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanyl]-1,β-dimethyl-D-tryptophan methyl ester (10.54 g) and trifluoroacetic acid (80 ml) was stirred on an ice bath for 30 minutes. After removal of the solvent, resultant crude residue was dissolved in ethanol (150 ml) and saturated ammonia in ethanol (150 ml) was added to the solution and resultant mixture was stirred for 16 hours at ambient temperature. After evaporation of the solvent, chloroform (200 ml) was added to the mixture. The insoluble material was filtered off and again solvent was evaporated in vacuo to give an oil which was chromatographed on silica gel (250 g, chloroform-methanol 20:1 as eluent) to afford (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(2-pyridylmethyl)piperazine-2,5-dione. Crystallization from ethanol yielded 3.14 g of the crystals.

reactant | Nα -[N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanyl]-1,β-dimethyl-D-tryptophan methyl ester | 10.54 g | COC([C@H](NC([C@H](NC(=O)OC(C)(C)C)CC1=NC=CC=C1)=O)C(C1=CN(C2=CC=CC=C12)C)C)=O | C27H34N4O5
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(2-pyridylmethyl)piperazine-2,5-dione | CN1C=C(C2=CC=CC=C12)[C@@H](C)[C@@H]1C(N[C@@H](C(N1)=O)CC1=NC=CC=C1)=O | C21H22N4O2
